US08084449B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-{[(3R,5S)-3,5-dimethyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-2,6-pyridinedicarboxamide
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-3-biphenylyl)methyl]-2,6-pyridinedicarboxamide (40 mg, 0.062 mmol), (2R,6S)-2,6-dimethylpiperazine (70.73 mg, 0.619 mmol, 10 eq) and acetic acid (3.55 μL, 0.062 mmol, 1 eq) were dissolved in DMSO (1.5 mL). The mixture was stirred in a VX-2500 Multi-Tube Vortexer overnight at room temperature. MP-triacetoxyborohydride (195 mg, 0.482 mmol, 7.78 eq) was then added and the mixture was stirred again in the VX-2500 Multi-Tube Vortexer overnight at room temperature. The reaction mixture was filtered through a polypropylene cartridge (10 mL tube) on a Bohdan Miniblock in a reaction tube and concentrated in a Glas-Col evaporator. The reaction mixture was then purified by Gilson HPLC with a water-acetonitrile with 0.1% TFA buffer. The desired product fractions were combined, filtered through amine cartouche (500 mg) on a Bohdan Miniblock and concentrated in a Glas-Col evaporator, giving 11.3 mg (27.2%) of the title compound. LC-MS m/z 744 (M+H)+, 1.41 min (ret time).

reactant | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-3-biphenylyl)methyl]-2,6-pyridinedicarboxamide | 0.062 mmol, 40 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=NC(=CC=C2)C(=O)NCC=2C=C(C=CC2)C2=CC(=CC=C2)C=O)CC | C37H39N7O4
reactant | (2R,6S)-2,6-dimethylpiperazine | 0.619 mmol, 70.73 mg, 10 eq | C[C@H]1N[C@H](CNC1)C | C6H14N2
reactant | acetic acid | 0.062 mmol, 3.55 μL, 1 eq | C(C)(=O)O | C2H4O2
reactant | triacetoxyborohydride | 0.482 mmol, 195 mg, 7.78 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-{[(3R,5S)-3,5-dimethyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-2,6-pyridinedicarboxamide | 11.3 mg, 27.2% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=NC(=CC=C2)C(=O)NCC=2C=C(C=CC2)C2=CC(=CC=C2)CN2C[C@H](N[C@H](C2)C)C)CC | C43H53N9O3
